US07470809B2
Step c) [2-(4-fluoro-benzyl)-phenyl]-methanol (Compound VI)
In an inertized flask containing 2-(4-fluoro-benzyl)-benzoic acid (1 eq.), toluene (0.8 L/mol) is added and the vessel is cooled down to 0-5° C. Sodium dihydro-bis(2-methoxyethoxy)aluminate (“RedAl”) (1 M in toluene, 2.3 eq.) is added dropwise and the reaction mixture is stirred at 5° C. during 16 hours. Acetone (3 eq.) is added dropwise at 5° C. and the mixture is stirred during 15 minutes. The temperature is allowed to rise to 25° C. A sodium hydroxide solution (5 eq.) is added and the mixture is stirred vigorously during 20 minutes. The organic layer is separated and washed again with a slightly acidic aqueous solution. The organic layer is filtered over Dicalite and used further in the next step.

reactant | 2-(4-fluoro-benzyl)-benzoic acid | 1 eq. | FC1=CC=C(CC2=C(C(=O)O)C=CC=C2)C=C1 | C14H11FO2
reactant | Acetone | 3 eq. | CC(=O)C | C3H6O
reactant | sodium hydroxide | 5 eq. | [OH-].[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | [2-(4-fluoro-benzyl)-phenyl]-methanol | FC1=CC=C(CC2=C(C=CC=C2)CO)C=C1 | C14H13FO
